US07531553B2
Preparation XXIV: (S)-4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine
(S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine (3.42 g, 12.63 mmol) and SnCl2 (7.19 g, 37.9 mmol) in 45 mL EtOH were heated at 75° C. for 11 h. The reaction was treated with about 15 mL 1 N K2CO3 (aq) and stirred 40 min. The suspension was filtered through Celite and concentrated down to aqueous, which was then diluted with EtOAc and 1 N NaOH (aq). The layers were separated, and the organic layer was washed twice with 1 N NaOH and once with mix of brine and 1 N NaOH. The aqueous layers were extracted twice with fresh EtOAc. The combined organic layers were dried over sodium sulfate, filtered, and concentrated down to dryness to yield the title compound as a brown solid.

reactant | (S)-2-(2-Chloro-5-nitro-phenoxymethyl)-pyrrolidine | 12.63 mmol, 3.42 g | ClC1=C(OC[C@H]2NCCC2)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O3
reactant | SnCl2 | 37.9 mmol, 7.19 g | Cl[Sn]Cl
reactant | K2CO3 | 1 N, about 15 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 45 mL | CCO | C2H6O
product | (S)-4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OC[C@H]1N(CCC1)C | C12H17ClN2O
